US07732460B2
(d) 1,1-Dimethylethyl [5-fluoro-2-(fluoroacetyl)-6-(methyloxy)-3-pyridinyl]carbamate
A mixture of 1,1-dimethylethyl [2-[1-(ethyloxy)ethenyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate (6.72 g, 21.54 mmol), acetonitrile (70 ml), and saturated aqueous sodium bicarbonate solution (15 ml) was treated portionwise over 5 minutes at 0° C. under argon with [1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (Selectfluor™) (8.9 g, 25.05 mmol). After the addition the mixture was stirred at room temperature for 0.5 hour then treated with saturated aqueous sodium bicarbonate solution (50 ml), stirred for 10 minutes, then diluted with water (100 ml) and extracted with ethyl acetate (3×200 ml). The combined organic extracts were dried over magnesium sulphate and evaporated. The residue was chromatographed eluting with 0-50% dichloromethane in hexane affording the product as a white solid (3.72 g, 57%).

reactant | 1,1-dimethylethyl [2-[1-(ethyloxy)ethenyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate | 21.54 mmol, 6.72 g | C(C)OC(=C)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)F)OC | C15H21FN2O4
reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 25.05 mmol, 8.9 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 1,1-Dimethylethyl [5-fluoro-2-(fluoroacetyl)-6-(methyloxy)-3-pyridinyl]carbamate | FC=1C=C(C(=NC1OC)C(CF)=O)NC(OC(C)(C)C)=O | C13H16F2N2O4
